US07851473B2
2-(5-Chloro-1,2,4-thiadiazol-3-yl)pyridine
To a solution of pyridine-2-carboximidamide hydrochloride (2.00 g, 12.7 mmol) and perchloromethyl mercaptan (1.75 ml, 16.3 mmol) in dichloromethane (40 ml) was added dropwise a solution of sodium hydroxide (3.26 g, 81.5 mmol) in water (6 ml) under ice-cooling. Then, the reaction mixture was stirred under ice-cooling for 1 hour and at room temperature for 1 hour. The organic layer was separated, washed with water, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give 1.05 g (42.0%) of the desired product as an oil.

reactant | pyridine-2-carboximidamide hydrochloride | 12.7 mmol, 2.00 g | Cl.N1=C(C=CC=C1)C(N)=N
reactant | perchloromethyl mercaptan | 16.3 mmol, 1.75 ml | ClC(Cl)(Cl)S | CHCl3S
reactant | sodium hydroxide | 81.5 mmol, 3.26 g | [OH-].[Na+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | water | 6 ml | O | H2O
product | 2-(5-Chloro-1,2,4-thiadiazol-3-yl)pyridine | 1.05 g, 42.0% | ClC1=NC(=NS1)C1=NC=CC=C1 | C7H4ClN3S
